US06231833B1
3-[(7R,9aS)-2-(5-Chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzoxazol-2-one
The title compound was synthesized according to Preparation 11 from 3-[(7R,9aS)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzoxazol-2-one (Preparation 12) and 2,5-dichloropyridine. mp (—HCl) 247-248° C. HRMS calcd for C21H23ClN4O2: 398.1510, found: 398.1484.

reactant | 3-[(7R,9aS)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzoxazol-2-one | C1[C@H]2N(CCN1)C[C@@H](CC2)CN2C(OC1=C2C=CC=C1)=O | C16H21N3O2
reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | HCl | Cl | ClH
product | 3-[(7R,9aS)-2-(5-Chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzoxazol-2-one | ClC=1C=CC(=NC1)N1C[C@H]2N(CC1)C[C@@H](CC2)CN2C(OC1=C2C=CC=C1)=O | C21H23ClN4O2
